2154-12-25 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2154-12-24**] 12:06 PM
   Pt intubated since [**2154-12-11**]
 OPEN TRACHEOSTOMY - At [**2154-12-24**] 03:49 PM
   Pt had tracheostomy procedure at the bedside; trach placed yesterday;
   no complications.  Sedation weaned overnight unable to change to trach
   mask this morning [**1-4**] low RR.
 PICC LINE - START [**2154-12-24**] 05:30 PM placed at bedside
   -positive about 500ml at midnight; additional lasix this am held
   pending creatinine
   -d/c'd vanc, levo, ceftaz yesterday
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2154-12-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-12-24**] 12:43 PM
   Midazolam (Versed) - [**2154-12-24**] 03:40 PM
   Fentanyl - [**2154-12-24**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-12-25**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 89 (83 - 101) bpm
   BP: 112/48(62){94/44(55) - 161/74(88)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,194 mL
                                                                    617 mL
   PO:
             TF:
                                                                    182 mL
                                                                    324 mL
   IVF:
                                                                    890 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    500 mL
   Urine:
                                                                  1,680 mL
                                                                    500 mL
   NG:
                                                                      0 mL
                                                                    200 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    414 mL
                                                                    117 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 337 (337 - 337) mL
   PS : 10 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   241 K/uL
   7.3 g/dL
   70 mg/dL
   2.1 mg/dL
   27 mEq/L
   4.6 mEq/L
   34 mg/dL
   110 mEq/L
   141 mEq/L
   22.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2154-12-20**]  05:29 PM
                             [**2154-12-21**]  04:19 AM
                             [**2154-12-22**]  04:40 AM
                             [**2154-12-23**]  01:11 PM
                             [**2154-12-24**]  05:55 AM
                             [**2154-12-24**]  07:50 AM
                             [**2154-12-24**]  09:15 AM
   WBC
   6.8
   8.3
   10.1
   9.2
   8.8
   Hct
   24.1
   24.9
   23.1
   16.6
   22.3
   Plt
   200
   220
   223
   242
   241
   Cr
   2.0
   2.0
   1.9
   1.9
   2.1
   Glucose
   136
   131
   158
   187
   70
   Other labs: PT / PTT / INR:13.6/26.5/1.2, Albumin:2.3 g/dL, Mg++:2.1
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 ANEMIA, CHRONIC
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2154-12-24**] 08:41 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-12-24**] 12:00 PM
   22 Gauge - [**2154-12-24**] 12:00 PM
   PICC Line - [**2154-12-24**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-12-25 08:04:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2154-12-24**] 12:06 PM
   Pt intubated since [**2154-12-11**]
 OPEN TRACHEOSTOMY - At [**2154-12-24**] 03:49 PM
   Pt had tracheostomy procedure at the bedside; trach placed yesterday;
   no complications.  Sedation weaned overnight unable to change to trach
   mask this morning [**1-4**] low RR.
 PICC LINE - START [**2154-12-24**] 05:30 PM placed at bedside
   -positive about 500ml at midnight; additional lasix this am held
   pending creatinine
   -d/c'd vanc, levo, ceftaz yesterday
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2154-12-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-12-24**] 12:43 PM
   Midazolam (Versed) - [**2154-12-24**] 03:40 PM
   Fentanyl - [**2154-12-24**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: No(t) Wheeze
   Genitourinary: Foley
   Psychiatric / Sleep: somnolent appearing with sedation off for >2hrs
   Flowsheet Data as of  [**2154-12-25**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 105 (83 - 105) bpm
   BP: 155/68(77){94/44(55) - 161/74(88)} mmHg
   RR: 24 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,194 mL
                                                                    739 mL
   PO:
             TF:
                                                                    182 mL
                                                                    426 mL
   IVF:
                                                                    890 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    500 mL
   Urine:
                                                                  1,680 mL
                                                                    500 mL
   NG:
                                                                      0 mL
                                                                    200 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    414 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 480 (337 - 480) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   Ve: 8.6 L/min
   [image002.gif]
   Physical Examination
   General Appearance: somnolent, only mildly responsive
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Poor dentition, moist mucus membranes
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : ,
   Diminished: at bases, Rhonchorous: ), limited anterior exam
   Abdominal: Soft, Distended, G tube in place
   Extremities: boots on, unable to assess; WWP
   Skin:  Warm, Blister at right chest has popped, now leaves scar; a
   number of similar scars in the same region
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Tries to move left arm against restraints, some movement of
   head/eyes, Tone: Not assessed
   Labs / Radiology
   203 K/uL
   7.7 g/dL
   194 mg/dL
   2.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   39 mg/dL
   105 mEq/L
   136 mEq/L
   21.9 %
   9.4 K/uL
        [image004.jpg]
   [image006.jpg]
                             [**2154-12-20**]  05:29 PM
                             [**2154-12-21**]  04:19 AM
                             [**2154-12-22**]  04:40 AM
                             [**2154-12-23**]  01:11 PM
                             [**2154-12-24**]  05:55 AM
                             [**2154-12-24**]  07:50 AM
                             [**2154-12-24**]  09:15 AM
                             [**2154-12-25**]  05:56 AM
   WBC
   6.8
   8.3
   10.1
   9.2
   8.8
   9.4
   Hct
   24.1
   24.9
   23.1
   16.6
   22.3
   21.9
   Plt
   200
   220
   223
   [**Telephone/Fax (3) 76**]
   Cr
   2.0
   2.0
   1.9
   1.9
   2.1
   2.3
   Glucose
   136
   131
   158
   187
   70
   194
   Other labs: PT / PTT / INR:14.2/31.8/1.2, Albumin:2.3 g/dL, Mg++:2.1
   mg/dL, PO4:3.9 mg/dL
   Imaging: WET READ, CXR [**12-24**]:
   New PICC line distal tip in the expected location of the mid SVC. New
   tracheostomy tube.
   Unchanged poor definition of the hemidiaphragms consistent with some
   combination of pleural fluid, atelectasis, and infiltrate at the bases.
   No pTx.
   Microbiology: No new micro data.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Creatinine is 2.3 today, continuing to rise even with a positive fluid
   balance, in the face of mild diuresis. BUN/Cr ratio and urine lytes
   were not entirely consistent with pre-renal picture. Will benefit from
   further analysis as renal picture really is not clear at this point; we
   will call renal consult today. Appreciate nutrition recommendations on
   tube feeds, will continue to discuss with them ways of reducing overall
   fluid input while maintaining good nutrition.
 RESPIRATORY FAILURE, CHRONIC
   Continues to require PS ventilation with trach mask. Taken off of
   antibiotics yesterday, will monitor over the next 1-2 days to assess
   for re-emerging infection. However in the absence of infection we are
   left with fluid overload and neurologic deficit (leading to poor cough,
   swallow and clearance) as primary explanations for continuing problems
   with secretion.
   - continue PS ventilation, trials of trach mask
   - again, will attempt to run negative today, goal -500cc
   - watch closely for signs of possible re-emerging lung infection in
   context of antibiotics being removed
 DIABETES MELLITUS (DM), TYPE II
   Glucose control was not ideal today. Likely will need increase in
   long-acting insulin. Raises concern for possible brewing infection in
   setting of removing antibiotics; watch closely.
 ANEMIA, CHRONIC
   Hematocrit low but not suggestive of bleeding. I am adding on anemia
   labs to r/o iron deficiency, most likely is anemia of chronic
   inflammation.
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC / MENTAL STATUS
   Taking pt off sedation this morning. Still not especially interactive.
   Should reassess later in the day in order to see if communication is
   improving. Most likely a combination of diminished baseline with
   sedation, so removing sedation should assist in evaluating. Clearing
   even comparing morning pre-rounding exam (described above) to somewhat
   more interactive presentation during team rounds ~2 hours later, about
   2 and 4 hours after sedation stopped respectively.
 DISPOSITION
   Patient's condition is unchanging at this point; likely can be
   transferred to vent rehab if renal issues/fluid balance can be managed
   there.
 NUTRITION
   Reducing free water boluses. Consulting nutrition as above.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2154-12-24**] 08:41 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2154-12-24**] 12:00 PM
   22 Gauge - [**2154-12-24**] 12:00 PM
   PICC Line - [**2154-12-24**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, RSBI
   Need for restraints reviewed
   Comments: [**Month (only) 60**] benefit from limited physical therapy of left upper
   extremity which he moves against his restraint whenever awake.
   Communication:  Comments: Would do well to have meeting with family in
   next 1-2 days to discuss next steps and overall goals of care.
   Code status: Full code
   Disposition:

2154-12-25 11:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Given lasix yesterday; however, still was postive fluid balance for the
   day. Antibiotics stopped. Patient afebrile. Creatiinine still rising.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2154-12-24**] 12:06 PM
   Pt intubated since [**2154-12-11**]
 OPEN TRACHEOSTOMY - At [**2154-12-24**] 03:49 PM
   Pt had tracheostomy procedure at the bedside.
 PICC LINE - START [**2154-12-24**] 05:30 PM
   History obtained from Medical records
   Patient unable to provide history: Ventilated
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2154-12-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-12-24**] 12:43 PM
   Midazolam (Versed) - [**2154-12-24**] 03:40 PM
   Fentanyl - [**2154-12-24**] 03:40 PM
   Other medications:
   Atrovent
   Albuterol
   Reglan
   Colace
   PPI
   Lipitor
   Folic Acid
   Ducolax
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-12-25**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 101 (83 - 112) bpm
   BP: 127/56(72){94/44(55) - 161/104(108)} mmHg
   RR: 25 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,194 mL
                                                                    874 mL
   PO:
             TF:
                                                                    182 mL
                                                                    472 mL
   IVF:
                                                                    890 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    610 mL
   Urine:
                                                                  1,680 mL
                                                                    610 mL
   NG:
                                                                      0 mL
                                                                    260 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    414 mL
                                                                    264 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 391 (337 - 480) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Poor dentition, Tracheostomy
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: No(t) Normal, Distant), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   203 K/uL
   194 mg/dL
   2.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   39 mg/dL
   105 mEq/L
   136 mEq/L
   21.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2154-12-20**]  05:29 PM
                             [**2154-12-21**]  04:19 AM
                             [**2154-12-22**]  04:40 AM
                             [**2154-12-23**]  01:11 PM
                             [**2154-12-24**]  05:55 AM
                             [**2154-12-24**]  07:50 AM
                             [**2154-12-24**]  09:15 AM
                             [**2154-12-25**]  05:56 AM
   WBC
   6.8
   8.3
   10.1
   9.2
   8.8
   9.4
   Hct
   24.1
   24.9
   23.1
   16.6
   22.3
   21.9
   Plt
   200
   220
   223
   [**Telephone/Fax (3) 76**]
   Cr
   2.0
   2.0
   1.9
   1.9
   2.1
   2.3
   Glucose
   136
   131
   158
   187
   70
   194
   Other labs: PT / PTT / INR:14.2/31.8/1.2, Albumin:2.3 g/dL, Mg++:2.1
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, Acute
 DIABETES MELLITUS (DM), TYPE II
 ANEMIA, CHRONIC
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   PLEURAL EFFUSION
   Attempted trach mask trial on rounds. Patient with respiratory rate in
   mid-30's but doesn't seem particularly distressed. Will try
   "sprint-rest" weaning protocol with 20 minute trials on four occasions
   today separated by several hours of rest. If respiratory rate stays
   within the 30's with this, we will try to progress with slightly longer
   periods on trach mask each day.
   Antibiotic course completed. Afebrile. WBC normal.
   Creat climbing despite volume resuscitation. Urine Na was up when
   checked before lasix started; argues against pre-renal state. No
   obvious cause of interstitial nephritis. Will consult renal service.
   Hct 21.9 - nearing transfusion threshold. No obvious bleeding.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-12-25**] 10:10 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-12-24**] 12:00 PM
   22 Gauge - [**2154-12-24**] 12:00 PM
   PICC Line - [**2154-12-24**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2154-12-26 07:01:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2154-12-25**] 02:15 PM
   left arm
 URINE CULTURE - At [**2154-12-25**] 04:40 PM
 BLOOD CULTURED - At [**2154-12-25**] 06:10 PM
   set #2 from PICC
 FEVER - 101.1
F - [**2154-12-25**] 02:00 PM
   Additional notes:
   - trials of trach mask throughout day for resp muscle strengthening
   - CM screened pt for [**Hospital 12**] Rehab
   - 2 hours into a blood transfusion pt  noted to have a low grade temp
   to 101.1 measured orally, though axillary temp was around baseline of
   98.  Since no change from baseline transfusion was continued.
   - Pt noted to have mucoid guiac positive foul smelling stool
   overnight.  C. Diff assay was sent.
   - Agitated overnight, with RR transiently increasing to 30-40.  Trach
   mask trial were therefore held during the night.  Pt was given Ativan
   0.5 mg with reduction in agitation and reduction of RR to ~20.
   - Pt was diuresed with lasix 80 mg at ~4PM and 100 mg at ~8PM.  Met I/O
   goal of even to -500 cc.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive, Language
   barrier
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2154-12-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-12-25**] 08:30 PM
   Other medications:
   heparin SC, insulin SC
   albuterol, ipratropium MDIs
   lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-12-26**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 90 (90 - 116) bpm
   BP: 107/48(62){107/39(58) - 155/104(108)} mmHg
   RR: 30 (19 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,950 mL
                                                                    371 mL
   PO:
             TF:
                                                                    869 mL
                                                                    303 mL
   IVF:
                                                                    275 mL
                                                                     69 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,930 mL
                                                                    600 mL
   Urine:
                                                                  1,930 mL
                                                                    600 mL
   NG:
                                                                    430 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 329 (316 - 394) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 11.5 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Pulmonary: Good air movement bilaterally, diffuse ronchi
   Peripheral Vascular: (Right radial pulse: ++), (Left radial pulse: ++),
   (Right DP pulse: boots on), (Left DP pulse: boots on)
   Abdominal: Distended, apparently non-tender
   Skin:  blistering at right chest
   Neurologic: Responds to: voice; somewhat sedated, not clearly
   responsive to queries or commands
   Labs / Radiology
   240 K/uL
   8.8 g/dL
   174 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   43 mg/dL
   107 mEq/L
   139 mEq/L
   26.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2154-12-20**]  05:29 PM
                             [**2154-12-21**]  04:19 AM
                             [**2154-12-22**]  04:40 AM
                             [**2154-12-23**]  01:11 PM
                             [**2154-12-24**]  05:55 AM
                             [**2154-12-24**]  07:50 AM
                             [**2154-12-24**]  09:15 AM
                             [**2154-12-25**]  05:56 AM
                             [**2154-12-26**]  03:47 AM
   WBC
   6.8
   8.3
   10.1
   9.2
   8.8
   9.4
   11.5
   Hct
   24.1
   24.9
   23.1
   16.6
   22.3
   21.9
   26.3
   Plt
   200
   220
   223
   [**Telephone/Fax (3) 76**]
   240
   Cr
   2.0
   2.0
   1.9
   1.9
   2.1
   2.3
   2.4
   Glucose
   136
   131
   158
   187
   70
   194
   174
   Other labs: PT / PTT / INR:14.5/39.6/1.3, Albumin:2.4 g/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   See discharge summary for more complete discussion of his entire course
   and status at discharge.
 RESPIRATORY FAILURE, CHRONIC
   s/p trach. At this point respiratory failure likely mostly due to fluid
   overload; pneumonia treated with extremely broad coverage x14 days.
   Doing trach mask trials to build tolerance/strength for possible future
   extubation. Need to diurese with very high doses in order to make
   progress in context of his fluid overload.
   --C. DIFF INFECTION
   While on rounds, C diff came back positive. Starting flagyl. Most
   likely secondary to extensive antibiotic exposure, when stopped little
   normal flora remaining, provides opportunity for C diff. Likely caught
   very early in infection course, can treat with flagyl for 14 days.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Acute on chronic renal failure. Likely secondary to ATN per renal. OK
   to diurese further, will likely require this to get fluid off lungs.
   - diurese today with goal -500 cc, lasix as needed to get to this goal,
   HCTZ if needed
 DIABETES MELLITUS (DM), TYPE II
   on RISS and glargine q12hrs
 ANEMIA, CHRONIC
   received 1 unit PRBC [**2154-12-25**] for hct 21.8. Will establish aranesp dose
   from past records.
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Difficult to assess what is baseline mental status at this point. See
   discharge summary for further discussion.
   --DISPOSITION: to [**Hospital 12**] Rehab today
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-12-26**] 02:25 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2154-12-24**] 12:00 PM
   PICC Line - [**2154-12-24**] 05:30 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments: HCP = daughter, [**Name (NI) 133**]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition: Screening for [**Hospital 12**] Rehab

2154-12-26 11:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated trials of trach mask during the day.
   Received blood transfusion (PRBC's) yesterday; noted to have fever by
   oral temp. Cultures sent.
   Some agitation during the night treated with ativan.
   Diuresed with lasix; achieved small negative fluid balance.
   24 Hour Events:
 BLOOD CULTURED - At [**2154-12-25**] 02:15 PM
   left arm
 URINE CULTURE - At [**2154-12-25**] 04:40 PM
 BLOOD CULTURED - At [**2154-12-25**] 06:10 PM
   set #2 from PICC
 FEVER - 101.1
F - [**2154-12-25**] 02:00 PM
   History obtained from Medical records
   Patient unable to provide history: Trach/ventilator
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2154-12-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-12-26**] 08:00 AM
   Other medications:
   Folic acid, vitamin D, atorvostatin, albuterol, atrovent, sc heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-12-26**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 86 (86 - 116) bpm
   BP: 103/47(61){92/39(58) - 144/92(97)} mmHg
   RR: 28 (19 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,950 mL
                                                                    746 mL
   PO:
             TF:
                                                                    869 mL
                                                                    524 mL
   IVF:
                                                                    275 mL
                                                                    172 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,930 mL
                                                                    825 mL
   Urine:
                                                                  1,930 mL
                                                                    825 mL
   NG:
                                                                    430 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (316 - 430) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Trach tube
   Cardiovascular: (PMI Normal), (S2: Distant), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), Soft heart sounds. No
   murmur or gallop.
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Few rales
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   240 K/uL
   174 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   43 mg/dL
   107 mEq/L
   139 mEq/L
   26.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2154-12-20**]  05:29 PM
                             [**2154-12-21**]  04:19 AM
                             [**2154-12-22**]  04:40 AM
                             [**2154-12-23**]  01:11 PM
                             [**2154-12-24**]  05:55 AM
                             [**2154-12-24**]  07:50 AM
                             [**2154-12-24**]  09:15 AM
                             [**2154-12-25**]  05:56 AM
                             [**2154-12-26**]  03:47 AM
   WBC
   6.8
   8.3
   10.1
   9.2
   8.8
   9.4
   11.5
   Hct
   24.1
   24.9
   23.1
   16.6
   22.3
   21.9
   26.3
   Plt
   200
   220
   223
   [**Telephone/Fax (3) 76**]
   240
   Cr
   2.0
   2.0
   1.9
   1.9
   2.1
   2.3
   2.4
   Glucose
   136
   131
   158
   187
   70
   194
   174
   Other labs: PT / PTT / INR:14.5/39.6/1.3, Albumin:2.4 g/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: Improved pleural effusions. Large heart. Hemidiaphragm
   seen better bilaterally. Compared to [**2154-12-24**], significant improvement
   in interstitial edema and pleural effusions.
   Microbiology: Stool: C Diff positive.
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   s/p trach
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   acute on chronic renal failure
 DIABETES MELLITUS (DM), TYPE II
   on RISS and glargine q12hrs
 ANEMIA, CHRONIC
   received 1 unit PRBC [**2154-12-25**] for hct 21.8
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   RSW
   PNEUMONIA
   C DIFF
   Put on trach mask today on rounds; patient comfortable with resp rate
   in 33-36 range. Continue with intervals of time on trach mask
   interspersed with time on PSV with ventilator. Continue to push for
   negative fluid balance of up to 0.5 L negative. CXR significantly
   improved re: pleural effusions and interstitial edema.
   Patient has completed course of antibiotics for pneumonia. C Diff now
   present in stool. Started on flagyl.
   Hct 26. No evidence of bleeding. Not at threshold for transfusion.
   Creat up marginally. Has been between 2-2.4 for the past week. Continue
   to monitor. Electrolytes acceptable. No metabolic acidosis present.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-12-26**] 07:40 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2154-12-24**] 12:00 PM
   PICC Line - [**2154-12-24**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes